US04168385
Methyl α-(3,4,5-trichlorophenoxy)-α-[p-(p-chlorophenoxy)phenyl]acetate
To a solution of 4.93 g of 3,4,5-trichlorophenol and 1.19 g of sodium methoxide in 40 ml of methanol is added 7.11 g of methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl]acetate in 10 ml of benzene and 50 mg of potassium iodide. The mixture is refluxed for 20 hours and the solvent removed in vacuo. To the residue is added water and the mixture is extracted with ether. The ether extracts are washed with 10% potassium carbonate and with water and dried (MgSO4). Evaporation of the solvent under vacuum gives a tan oil. The oil is dissolved in chloroform and filtered through a column of silica gel. Removal of the solvent from the second 200 ml cut gives the product as a tan oil.

reactant | 3,4,5-trichlorophenol | 4.93 g | ClC=1C=C(C=C(C1Cl)Cl)O | C6H3Cl3O
reactant | sodium methoxide | 1.19 g | C[O-].[Na+]
reactant | methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl]acetate | 7.11 g | BrC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C15H12BrClO3
solvent | methanol | 40 ml | CO | CH4O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | potassium iodide | 50 mg | [I-].[K+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Methyl α-(3,4,5-trichlorophenoxy)-α-[p-(p-chlorophenoxy)phenyl]acetate | ClC=1C=C(OC(C(=O)OC)C2=CC=C(C=C2)OC2=CC=C(C=C2)Cl)C=C(C1Cl)Cl | C21H14Cl4O4
